US05294626
b) 6-(4-(2-(2,4,6-Trimethylbenzenesulphonylamino)ethyl)-phenyl)-6-(3-pyridyl)hex-5-enoic acid
A mixture of 3.24 g of methyl 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hex-5-enoate, 2.2 g of 2,4,6-trimethylbenzenesulphonic acid chloride and 100 ml of triethylamine in 50 ml of dichloromethane is stirred for 30 minutes at ambient temperature. Then the reaction mixture is washed twice with water, dried and evaporated down. The residue is purified over a silica gel column using ethyl acetate. The crude product obtain is heated in a mixture of 32 ml of ethanol and 5 ml of 4N sodium hydroxide solution for 30 minutes to 50° to 60° C. The reaction mixture is evaporated down, the residue is taken up in 50 ml of water and washed with ethyl acetate. The aqueous phase is adjusted to pH 5 by the addition of citric acid and extracted twice with ethyl acetate. The organic phase is dried, evaporated down and the residue is chromatographed over a silica gel column using ethyl acetate. The crude product is then recrystallised from ethyl acetate/diisopropyl ether.

reactant | methyl 6-(4-(2-aminoethyl)phenyl)-6-(3-pyridyl)hex-5-enoate | 3.24 g | NCCC1=CC=C(C=C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C20H24N2O2
reactant | 2,4,6-trimethylbenzenesulphonic acid chloride | 2.2 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
reactant | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6-(4-(2-(2,4,6-Trimethylbenzenesulphonylamino)ethyl)-phenyl)-6-(3-pyridyl)hex-5-enoic acid | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)NCCC1=CC=C(C=C1)C(=CCCCC(=O)O)C=1C=NC=CC1 | C28H32N2O4S
